US04518779
To a stirred solution of dimethylamine (250 ml) in methanol (1 liter) maintained under nitrogen and cooled in an ice bath was added portionwise 1-chloromethyl-3,4-dihydro-4-phenylisoquinoline (25.0 g, 0.084 m) and the mixture stirred for 4 hours while being allowed to warm to ambient temperature. The solution was poured into a pressure bottle and hydrogenated on a Parr apparatus over 5% Pd/C catalyst (5.0 g) at 40 psi. for 16 hours. The catalyst was removed by filtration and the solvent evaporated to a gummy residue. The residue was dissolved in methanol (300 ml) and isopropanol (100 ml) and acidified with HCl gas. Upon cooling and standing, a solid crystallized which was collected by filtration. Recrystallization from methanol/isopropanol/water gave 12.2 g of the major isomer of 1,2,3,4-tetrahydro-1-dimethylaminomethyl-4-phenylisoquinoline dihydrochloride as a monohydrate, m.p. 278°-279°.

reactant | dimethylamine | 250 ml | CNC | C2H7N
reactant | 1-chloromethyl-3,4-dihydro-4-phenylisoquinoline | 25.0 g | ClCC1=NCC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14ClN
solvent | methanol | 1 liter | CO | CH4O
catalyst | Pd/C | 5.0 g | [Pd] | Pd
product | 1,2,3,4-tetrahydro-1-dimethylaminomethyl-4-phenylisoquinoline dihydrochloride | Cl.Cl.CN(C)CC1NCC(C2=CC=CC=C12)C1=CC=CC=C1 | InChI=1S/C18H22N2.2ClH/c1-20(2)13-18-16-11-7-6-10-15(16)17(12-19-18)14-8-4-3-5-9-14;;/h3-11,17-19H,12-13H2,1-2H3;2*1H
